US06723726B1
(2-Benzyl-1H-benzimidazol-5-yl)-(6-chloro-pyrido[3,4-d]pyrimidin-4-yl)-amine
Prepared according to Procedure A from 5-amino-2-benzyl-1H-benzimidazole and 4,6-dichloro-pyrido[3,4-d]pyrimidine; δH [2H6]-DMSO 9.13(1H,s), 8.93(1H,s), 8.84(1H,s), 8.60(1H,s), 8.05(1H,dd), 7.88(2H,d), 7.50(6H, m), 4.61(2H,s); m/z (M+1)+387.

reactant | 5-amino-2-benzyl-1H-benzimidazole | NC1=CC2=C(NC(=N2)CC2=CC=CC=C2)C=C1 | C14H13N3
reactant | 4,6-dichloro-pyrido[3,4-d]pyrimidine | ClC=1C2=C(N=CN1)C=NC(=C2)Cl | C7H3Cl2N3
product | (2-Benzyl-1H-benzimidazol-5-yl)-(6-chloro-pyrido[3,4-d]pyrimidin-4-yl)-amine | C(C1=CC=CC=C1)C1=NC2=C(N1)C=CC(=C2)NC=2C1=C(N=CN2)C=NC(=C1)Cl | C21H15ClN6
